US07517899B2
To a solution of ethylamine in methanol (2.0 M, 150 mL, 300 mmol) was added 1-fluoro-2-nitrobenzene (8 mL, 75.7 mmol). The reaction mixture was placed in a sealed vessel and heated to 55° C. for 15 hours. The solvent was removed in vacuo and the residue was taken up in ethyl acetate (200 mL), washed with a saturated aqueous solution of sodium bicarbonate (80 mL), and dried over anhydrous sodium sulfate (50 g). After removal of solvent, ethyl-(2-nitro-phenyl)-amine (12.5 g, 75 mmol) was obtained as a brown oil. MS (ES) m/z 167.1.

reactant | ethylamine | C(C)N | C2H7N
reactant | methanol | 300 mmol, 2.0 M, 150 mL | CO | CH4O
reactant | 1-fluoro-2-nitrobenzene | 75.7 mmol, 8 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | ethyl-(2-nitro-phenyl)-amine | 75 mmol, 12.5 g | C(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O2
